Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
vancomycin in D5W
 
Attending: ___.
 
Chief Complaint:
lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of COPD on 2L NC, CAD s/p CABG, DM, afib s/p ablation,
who presents with lightheadedness.

Per patient, he notes that he "felt like I was having a stroke".
He said that just prior to presentation he got up out of the car
and felt like he was going to fall down and that the ground was
rushing up at him.  He sat back down in the car and the feeling
subsided in ___ minutes.  He denies a spinning sensation or a
disequilibrium type feeling.  No chest pain, SOB, palpitations,
f/c/s.  No numbness, tingling, LOS or weakness anywhere.

He reports he has similar episodes ___, in which he
experiences symptoms like he is being "electrocuted."  He calls
these mini-strokes, though he does not have a h/o CVA.  He has
not seen a neurologist for these given infrequency; he has
discussed this with his PCP.  

Currently he feels well without complaints or concerns.  No
further episodes.  Denies current dizziness, headache, fevers,
cough, chest pain, abd pain, N/V/D, or double vision.  He checks
his fingersticks weekly and they have been running between
120-140s. No recent medication changes. 

In the ED, VSS.  He had a head CT which was wnl.  Labs were
notable for Cr 2.1, elevated from his baseline, so he received 1
liter of LR in the ED.  He also had positive orthostatics while
there.  

 
Past Medical History:
Asthma/COPD
CAD status post CABG
Atrial fibrillation status post ablation
PVD status post subclavian artery stent
Right shoulder osteoarthritis
Cataracts
Osteoporosis
Chronic kidney injury
Diabetes mellitus
Hypertension
Cholelithiasis
Allergic rhinitis
History of alcohol misuse
History of cognitive deficits
History of depression
 
Social History:
___
Family History:
Mother with lung cancer and father with CVA.
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable except for SBP 180s
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, MM
slightly dry. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: Afebrile and vital signs stable except for SBP 180s
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, MM
slightly dry. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 11:20AM BLOOD WBC-8.0 RBC-4.44* Hgb-14.3 Hct-44.3 
MCV-100* MCH-32.2* MCHC-32.3 RDW-13.3 RDWSD-48.7* Plt ___
___ 11:20AM BLOOD Neuts-56.5 ___ Monos-13.0 Eos-6.1 
Baso-0.9 Im ___ AbsNeut-4.53 AbsLymp-1.87 AbsMono-1.04* 
AbsEos-0.49 AbsBaso-0.07
___ 11:20AM BLOOD Glucose-125* UreaN-35* Creat-2.1* Na-139 
K-4.6 Cl-104 HCO3-18* AnGap-17
___ 11:20AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.4
___ 11:40AM BLOOD Lactate-2.4*

DISCHARGE LABS:
___ 06:22AM BLOOD Glucose-113* UreaN-29* Creat-1.5* Na-141 
K-4.9 Cl-109* HCO3-18* AnGap-14
___ 06:22AM BLOOD WBC-7.3 RBC-4.29* Hgb-14.3 Hct-43.1 
MCV-101* MCH-33.3* MCHC-33.2 RDW-13.1 RDWSD-48.0* Plt ___

NCHCT: There is a large CSF density lesion in the right middle 
cranial fossa 
unchanged from prior and most likely representing a large 
arachnoid cyst.  
There is no intra-axial or extra-axial hemorrhage, edema, shift 
of normally 
midline structures, or evidence of acute major vascular 
territorial 
infarction.  Age related involutional changes are again noted.  
Ventricles are 
stable in size.  Minimal periventricular white matter 
hypodensities are again 
noted consistent with chronic microvascular ischemic disease.  
The imaged bony 
structures are intact.  Imaged paranasal sinuses, mastoid air 
cells and middle 
ear cavities appear well aerated.  Dense carotid siphon 
calcification is 
noted. 
  
IMPRESSION:  
  
No acute intracranial process.  Large arachnoid cyst within the 
right middle 
cranial fossa. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with PMH of COPD on 2L NC, 
CAD s/p CABG, DM, Afib s/p ablation, who presents with 
lightheadedness and was found to have ___ and orthostatic 
hypotension.

ACUTE/ACTIVE PROBLEMS:
# Lightheadedness/presyncope: Neuro exam was normal on 
admission. He did not have arrhythmias or signs of ischemia on 
EKG and telemetry overnight was without arrhythmia. NCHCT was 
normal, without evidence of stroke/bleed. Based on history, his 
episode appeared more consistent with presyncope, and 
orthostatic vital signs support this diagnosis. He also had ___ 
that improved with IVF which is evidence of dehydration though 
he denies that he has had reduced intake. Even though ___ 
improved, he continued to have orthostatic VS with SBP going 
from 160 to 100 from lying to standing. Could possibly have 
autonomic dysfunction as he does not appear dehydrated anymore.

# ___ on CKD stage III - His Cr was elevated at 2.1 which 
improved to 1.5 with 1L IVF which is his baseline. Losartan was 
held on admission but restarted at discharge.

#Orthostatic hypotension: Patient had positive orthostatic vital 
signs on admission and also after IVF, concerning for some 
possible autonomic dysfunction versus medication effect. Now 
that Cr is improved, will discharge on losartan for HTN, but 
will hold amlodipine as it can worsen orthostatic hypotension.

#Metabolic acidosis: Bicarb was 18 even with improvement in ___. 
Based on prior nephrology note, has history of metabolic 
acidosis which had been attributed to his CKD. Continue to 
monitor and follow up with ___ clinic.

#Macrocytic anemia: Has normal Hgb but with MCV elevated to low 
100s. VitB12 and folate in the past few years have been normal. 
Could possibly be due to alcohol intake. No diagnosis of liver 
disease, but hasn't had an ultrasound in ___ records. MDS is 
also on differential.

CHRONIC/STABLE PROBLEMS:
# CAD s/p CABG - continued ASA, ezetimibe 
# COPD on 2L - continued advair, albuterol prn, loratidine
# Afib - s/p ablation
# DM - ___ qid, placed on SS in hospital, held Januvia. Restarted 
Januvia on discharge.

TRANSITIONAL ISSUES:
- For syncope work up, could consider TTE as outpatient, though 
no evidence of valvular abnormality on cardiac exam. Last TTE 
was ___.
- Follow up BP and increase medications as needed, but would 
avoid CCB and beta blockers due to potential to worsen 
orthostatic hypotension
- Should have evaluation for macrocytic anemia. Consider liver 
ultrasound. Has follow up with hematology in ___.
- Repeat Cr at next clinic visit.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. BuPROPion XL (Once Daily) 150 mg PO BID 
3. Mirtazapine 15 mg PO QHS 
4. Ezetimibe 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergy 
symptoms 
6. amLODIPine 5 mg PO DAILY 
7. Atorvastatin 80 mg PO QPM 
8. Multivitamins 1 TAB PO DAILY 
9. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
10. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
11. Aspirin 325 mg PO DAILY 
12. Loratadine 10 mg PO DAILY 
13. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 

 
Discharge Medications:
1.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  BuPROPion XL (Once Daily) 150 mg PO BID  
5.  Ezetimibe 10 mg PO DAILY  
6.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN allergy 
symptoms  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  Loratadine 10 mg PO DAILY  
9.  Losartan Potassium 25 mg PO DAILY  
10.  Mirtazapine 15 mg PO QHS  
11.  Multivitamins 1 TAB PO DAILY  
12.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute kidney injury
Pre-syncope
Orthostatic hypotension versus autonomic dysfunction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for an episode of feeling like you 
were going to pass out.

You were found to have acute kidney injury, likely due to 
dehydration. You received IV fluids and your kidney function 
improved back to normal.

You were also found to have orthostatic hypotension, which means 
that your blood pressure gets low when you stand. You need to go 
from sitting to standing very slowly and walk carefully when you 
are out of the hospital so you do not pass out/faint.

Sincerely,
Your ___ Team
 
Followup Instructions:
___